US07109192B2
3c) 4-amino-2-hydroxy-3-nitropyridine
A solution of 18.0 g (104 mmol) of 4-amino-2-chloro-3-nitropyridine in 120 ml dimethylsulphoxide and 30 ml of water was stirred for four hours at 130° C. The solution was then cooled and left to stand overnight while cooling with ice. The product that crystallised out was suction filtered, washed with a little water and dried at 50° C.

reactant | 4-amino-2-chloro-3-nitropyridine | 104 mmol, 18.0 g | NC1=C(C(=NC=C1)Cl)[N+](=O)[O-] | C5H4ClN3O2
reactant | dimethylsulphoxide | 120 ml | CS(=O)C | C2H6OS
solvent | water | 30 ml | O | H2O
product | 4-amino-2-hydroxy-3-nitropyridine | NC1=C(C(=NC=C1)O)[N+](=O)[O-] | C5H5N3O3
